US09212182B2
To a 250-mL RBF was added 3′-(difluoromethyl)-2,5′-difluoro-5-methoxy-1,1′-biphenyl (642 mg, 2.376 mmol) and sulfuric acid (69.7 μl, 1.307 mmol). DCM (3960 μl) and AcOH (3960 μl) were added to give a colorless clear solution. To this solution was added n-iodosuccinimide (238 μl, 2.376 mmol) as a solid in a single portion to give a maroon-colored solution. After 3 h at rt, the mixture was diluted with DCM (30 mL), washed with water (10 mL), washed with saturated aq. sodium thiosulfate (10 mL, DCM was upper layer for separation), dried over sodium sulfate, filtered, and concentrated. The residue was purified by chromatography on silica gel (50-g silica gel column, 0-5% EtOAc/Heptane) to provide 3′-(difluoromethyl)-2,5′-difluoro-4-iodo-5-methoxy-1,1′-biphenyl (771 mg, 1.946 mmol, 82% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 7.80-7.87 (m, 1H), 7.67-7.73 (m, 1H), 7.63-7.67 (m, 1H), 7.48-7.57 (m, 1H), 7.08-7.18 (m, 2H), 3.91 (d, J=2.54 Hz, 3H)

reactant | 3′-(difluoromethyl)-2,5′-difluoro-5-methoxy-1,1′-biphenyl | 2.376 mmol, 642 mg | FC(C=1C=C(C=C(C1)F)C1=C(C=CC(=C1)OC)F)F | C14H10F4O
reactant | sulfuric acid | 1.307 mmol, 69.7 μl | S(O)(O)(=O)=O | H2O4S
reactant | AcOH | 3960 μl | CC(=O)O | C2H4O2
reactant | n-iodosuccinimide | 2.376 mmol, 238 μl | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3960 μl | C(Cl)Cl | CH2Cl2
product | 3′-(difluoromethyl)-2,5′-difluoro-4-iodo-5-methoxy-1,1′-biphenyl | 1.946 mmol, 771 mg, 82% yield | FC(C=1C=C(C=C(C1)F)C1=C(C=C(C(=C1)OC)I)F)F | C14H9F4IO
